Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / fish oil / Pollen/Seasonal allergy
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with seizure disorder 
on primidone who presents as a transfer from urgent care with 
right chest pleuritic pain and was found to have a CTA with PEs. 


Ms. ___ was watching the ___ game on ___ evening 
when she developed intense R flank pain that was worse with deep 
inspiration. This was associated with dypsnea and progressively 
worsened until she took ibuprofen which helped her pain. She 
presented to the ___ urgent care near her house, was found to 
have an elevated D-Dimer, and was referred to ___ where 
she was found to have multiple PEs. She was started on heparin 
gtt and transferred to ___ for consideration of MASCOT consult 
and catheter directed therapy given tachycardia and hypoxia. 

Of note, she has not had recent periods of immobilization. She 
did fracture her foot in ___ of this year, but was only 
non-weight bearing for 7d. She is still working and fairly 
active. She has not had recent travel and has not been on a 
plane recently. Her last colonoscopy was about ___ years ago and 
her next is scheduled in ___ years due to prior findings of a 
pre-cancerous adenoma that was removed. She gets yearly 
mammograms and they have been normal. She had regular pap smears 
until age ___ when they were discontinued. She denies recent 
weight loss. She has some mild bilateral swelling in her legs 
that has been unchanged for months. 

EMERGENCY DEPARTMENT COURSE
Initial vital signs were notable for:  
- T99, HR 79, BP 124/78, RR 16, O2 97% RA
 
Exam notable for: 
- Benign, no lower extremity edema or tenderness

Labs were notable for: 
- Troponin <0.01
- BNP 202  
- Na 132

Patient was given:  
- Heparin infusion 
- Acetaminophen 650mg 
- Primidone 312.5 mg 

Consults: None

Vital signs prior to transfer: 
- T 98.7, Hr 75, BP 114/56, RR 16, O2 94% RA
 
 
Past Medical History:
HLD
Seizure Disorder (3 lifetime seizures, last at age ___
Cholecystectomy
Left knee surgery
Right ankle surgery
L foot surgery
Celiac Disease 
Bladder suspension 

 
Social History:
___
Family History:
- Unknown parental history as she is adopted, but her biological 
mother may have had breast cancer
- Two daughters with RA. One daughter with celiac disease. 2 
daughters with ___. None with seizures. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM 
=======================  
VITALS:  T 99.1, BP 149/76, HR 98, RR 18, O2 95RA
GENERAL: Well appearing, sitting up on side of bed speaking to 
me
HEENT: Pupils equal and reactive, moist mucous membranes, no 
scleral icterus
CARDIAC:  S1/S2 regular with no murmurs, rubs or S3/S4
LUNGS:  Clear bilaterally, pain on R side with deep inspiration 
ABDOMEN: Soft, non-tender, non-distended
EXTREMITIES: No lower extremity swelling, warm extemities
NEUROLOGIC: A+Ox3, grossly intact strength and sensation 

DISCHARGE PHYSICAL EXAM 
=======================  
VITALS:  24 HR Data (last updated ___ @ 425)
    Temp: 99.0 (Tm 99.4), BP: 116/44 (99-120/44-70), HR: 95
(76-95), RR: 18, O2 sat: 96% (95-97), O2 delivery: RA, Wt: 
146.16
lb/66.3 kg  
GENERAL: Well appearing, sitting up on side of bed speaking to 
me
HEENT: Pupils equal and reactive, moist mucous membranes, no
scleral icterus
CARDIAC:  S1/S2 regular with no murmurs, rubs or S3/S4
LUNGS:  Clear bilaterally, pain on R side with deep inspiration 
ABDOMEN: Soft, non-tender, non-distended
EXTREMITIES: No lower extremity swelling, warm extemities
NEUROLOGIC: A+Ox3, grossly intact strength and sensation 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 03:56AM BLOOD WBC-8.1 RBC-3.99 Hgb-11.8 Hct-35.1 MCV-88 
MCH-29.6 MCHC-33.6 RDW-12.1 RDWSD-39.3 Plt ___
___ 03:56AM BLOOD Glucose-111* UreaN-8 Creat-0.6 Na-134* 
K-3.7 Cl-96 HCO3-23 AnGap-15
___ 03:56AM BLOOD Calcium-9.2 Phos-3.2 Mg-1.8
___ 03:56AM BLOOD ALT-13 AST-25 LD(LDH)-236 AlkPhos-102 
TotBili-0.4
___ 11:17PM BLOOD proBNP-202

IMAGING:
===============
___ Bilateral Lower Extremity US
FINDINGS: 
- There is normal compressibility, color flow, and spectral 
doppler of the bilateral common femoral, femoral, and popliteal 
veins. Normal color flow is demonstrated in the posterior tibial 
and peroneal veins.
- There is normal respiratory variation in the common femoral 
veins bilaterally.
- No evidence of medial popliteal fossa (___) cyst.
IMPRESSION: 
- No evidence of deep venous thrombosis in the right or left 
lower extremity veins.

___ TTE
CONCLUSION:
- The left atrial volume index is normal. There is normal left 
ventricular wall thickness with a normal cavity size. There is 
normal regional and global left ventricular systolic function. 
Quantitative biplane left ventricular ejection fraction is 62 % 
(normal 54-73%). There is no resting left ventricular outflow 
tract gradient. Normal right ventricular cavity size with normal 
free wall motion. The aortic sinus diameter is normal for gender 
with normal ascending aorta diameter for gender. The aortic arch 
diameter is normal with a normal descending aorta diameter. The 
aortic valve leaflets (3) are mildly thickened. There is no 
aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets appear structurally normal with leaflet 
straightening, but no frank systolic prolapse. There is a 
late-systolic jet of mild [1+] mitral regurgitation. Due to 
acoustic shadowing, the severity of mitral regurgitation could 
be UNDERestimated. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally normal. There is 
physiologic tricuspid regurgitation. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion. 
IMPRESSION:
- Normal left ventricular wall thickness and biventricular 
cavity sizes and regional/ global systolic function. Mild mitral 
regurgitation with systolic straightening of the leaflets. Mild 
pulmonary artery systolic hypertension.

DISCHARGE LABS:
===============
___ 07:45AM BLOOD WBC-8.2 RBC-3.79* Hgb-11.3 Hct-33.3* 
MCV-88 MCH-29.8 MCHC-33.9 RDW-12.1 RDWSD-39.1 Plt ___
___ 07:45AM BLOOD ___ PTT-35.8 ___
___ 07:45AM BLOOD Glucose-101* UreaN-4* Creat-0.5 Na-135 
K-4.1 Cl-94* HCO3-22 AnGap-19*
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with seizure disorder 
on primidone who presents as a transfer from urgent care with 
right chest pleuritic pain and was found to have a CTA with PEs. 


============
ACUTE ISSUES
============
#Non-submassive Pulmonary Embolism
Presented with right chest/flank pleuritic pain and was found to 
have a CTA with subsegmental PE. She has no known risk factors; 
is up to date on age appropriate cancer screening, no history of 
immobilization, no other known hypercoagulable state. Does have 
history of multiple traumas to bilateral lower extremities, but 
LENIs did not show clot in either leg. She was initially 
transferred for possible MASCOT consult but this was deferred 
given normal BNP/troponin, no RH strain on CTA, normal O2 on 
room air, and no tachycardia. Her nonsubmassive PE was managed 
with systemic anticoagulation. There was initial concern with BP 
drop from 140's to 90's, though it remained stable thereafter 
with systolics 100-120s (her baseline). TTE during admission 
demonstrated EF 62% with normal systolic function, mild MR and 
mild PASP. She was initiated on warfarin given interaction with 
AED and DOACs. She was bridged with Lovenox and set up with meds 
to bed. 

#Radiographic findings
CTA read with possible median arcuate ligament syndrome. She has 
had no postprandial abdominal pain, nor any weight loss. 
Therefore, will simply monitor for symptoms. 

============== 
CHRONIC ISSUES 
============== 
#Seizure Disorder: Continued home primidone 
#HLD: Continued home Atorvastatin 

TRANSITIONAL ISSUES
===================
Discharge INR 1.2

[] Set up with ___ clinic on ___, recs for 
next INR on ___ 
[] Started on warfarin with Lovenox bridge. 
[] No clear indication for aspirin, discontinued on discharge
[] Incidental finding of possible median arcuate ligament 
syndrome on CTA read. Asymptomatic 

#CODE: Full Confirmed
#CONTACT: Husband/HCP, ___, ___ or ___

More than 30 minutes were spent preparing this discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Vitamin D 1000 UNIT PO DAILY 
4. Atorvastatin 10 mg PO QPM 
5. PrimiDONE 500 mg PO QAM 
6. PrimiDONE 312.5 mg PO QPM 

 
Discharge Medications:
1.  Enoxaparin Sodium 65 mg SC Q12H  
2.  Warfarin 5 mg PO ONCE Duration: 1 Dose  
3.  Atorvastatin 10 mg PO QPM  
4.  Docusate Sodium 100 mg PO BID  
5.  PrimiDONE 500 mg PO QAM  
6.  PrimiDONE 312.5 mg PO QPM  
7.  Vitamin D 1000 UNIT PO DAILY  
8.Outpatient Lab Work
INR check on ___
Fax to ___ ___
ICD-9 code 415.1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
=================
Pulmonary embolism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 
 WHY WERE YOU ADMITTED TO THE HOSPITAL?
 - You were admitted to the hospital because you were having 
chest pain

 WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?  
 - You were found to have blood clots in your lung on CT scan
 - You were started on blood thinners
 - You improved and were ready to leave the hospital.  

 WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
 - Please take all of your medications as prescribed and go to 
your follow up appointments with your doctors ___ below)   
 - Seek medical attention if you have new or concerning symptoms 


 It was a pleasure participating in your care. We wish you the 
best!
 
 - Your ___ Care Team  
 
Followup Instructions:
___